US08877961B2
(g) Preparation of ({2-[(tert-butoxy)carbonylamino]ethyl}amino)-N-{4-[(2,5-dioxoazolidinyloxy)carbonylamino]phenyl}carboxamide
N,N′-Disuccinimidylcarbonate (5.49 g, 21.44 mmol, 1.1 eq) is added at room temperature to a stirred solution of N-(4-aminophenyl)({2-[(tert-butoxy)carbonyl-amino]ethyl}amino)carboxamide (6.75 g, 19.49 mmol, 1.0 eq) in CH3CN (350 mL).

reactant | N,N′-Disuccinimidylcarbonate | 21.44 mmol, 5.49 g, 1.1 eq | C1CC(=O)N(C1=O)OC(=O)ON2C(=O)CCC2=O | C9H8N2O7
reactant | N-(4-aminophenyl)({2-[(tert-butoxy)carbonyl-amino]ethyl}amino)carboxamide | 19.49 mmol, 6.75 g, 1.0 eq | NC1=CC=C(C=C1)NC(=O)NCCNC(=O)OC(C)(C)C | C14H22N4O3
solvent | CH3CN | 350 mL | CC#N | C2H3N
product | ({2-[(tert-butoxy)carbonylamino]ethyl}amino)-N-{4-[(2,5-dioxoazolidinyloxy)carbonylamino]phenyl}carboxamide | C(C)(C)(C)OC(=O)NCCNC(=O)NC1=CC=C(C=C1)NC(=O)ON1C(CCC1=O)=O | C19H25N5O7
